US05990101
3-(N-formyl-N-methylamino)methylimidazo[5,1-b]thiazole
A mixed solution of 0.25 ml of anhydrous acetic acid and 0.50 ml of formic acid which had been beforehand reacted with each other at 50° C. for 5 minutes was added to 6 ml of a dichloromethane solution containing 294 mg of 3-(N-methylamino)methylimidazo[5,1-b]thiazole under ice-cooling, followed by stirring at the same temperature for 30 minutes. Then, water was added to the reaction solution, and the solution was then alkalified with anhydrous potassium carbonate under stirring, followed by extraction three times with dichloromethane. The organic layer was dried over anhydrous potassium carbonate and then filtered, and the solvent was evaporated under reduced pressure. The resulting residue was purified by a silica gel column chromatograph to obtain 174 mg of the title compound.

reactant | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 0.50 ml | C(=O)O | CH2O2
reactant | 3-(N-methylamino)methylimidazo[5,1-b]thiazole | 294 mg | CNCC=1N2C(SC1)=CN=C2 | C7H9N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 3-(N-formyl-N-methylamino)methylimidazo[5,1-b]thiazole | 174 mg | C(=O)N(C)CC=1N2C(SC1)=CN=C2 | C8H9N3OS
